US05455252
4-[4-Amino-3-(3-nitrophenyl)benzyl]pyridine (600 mg) was combined with glycerol (489 mg) and arsenic pentoxide (325 mg) under nitrogen. The reaction mixture was heated to 100° C. for 30 minutes. Concentrated sulfuric acid (406 mg) was added in a dropwise manner and the reaction mixture was further heated to 150° C. for 2 hours. The reaction was monitored by TLC (9:1, hexane:ethyl acetate) where an aliquot was worked up by adding the product from the reaction to H2O, basifying with NH4OH and extracting with ethyl acetate. When TLC indicated that greater than 90% of the starting material had been converted, the reaction mixture was removed from the heat, ice (approximately 1 gm) was added, and NH4OH was added to basify the mixture. A precipitate was filtered out of the mixture, washed with H2O and air dried. The resulting solid was suspended in hot ethyl acetate and filtered. The filtrate was concentrated and chromatographed by preparative thin-layer chromatography (4:1, hexane:ethyl acetate), the spot with the higher Rf value was isolated yielding 181 mg of 6-(4-pyridylmethyl)-8-(3-nitrophenyl)quinoline as a viscous yellow oil. The product was recrystallized from diethyl ether as a light yellow solid.

reactant | 4-[4-Amino-3-(3-nitrophenyl)benzyl]pyridine | 600 mg | NC1=C(C=C(CC2=CC=NC=C2)C=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C18H15N3O2
reactant | arsenic pentoxide | 325 mg | O=[As](=O)O[As](=O)=O | As2O5
reactant | sulfuric acid | 406 mg | S(O)(O)(=O)=O | H2O4S
reactant | NH4OH | [NH4+].[OH-]
reactant | hexane | CCCCCC | C6H14
solvent | H2O | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | glycerol | 489 mg | OCC(O)CO | C3H8O3
product | 6-(4-pyridylmethyl)-8-(3-nitrophenyl)quinoline | 181 mg | N1=CC=C(C=C1)CC=1C=C2C=CC=NC2=C(C1)C1=CC(=CC=C1)[N+](=O)[O-] | C21H15N3O2
